US09108939B2
tert-Butyl 4-(3-aminobenzyl)piperidine-1-carboxylate (6.09 mmol, 1.77 g) was dissolved in dichloromethane (10 mL). Trifluoroacetic acid (5 mL) was added and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was concentrated under vacuum and purified by SCX chromatography to afford the intermediate 3-(piperidin-4-ylmethyl)aniline (1.27 g).

reactant | tert-Butyl 4-(3-aminobenzyl)piperidine-1-carboxylate | 6.09 mmol, 1.77 g | NC=1C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H26N2O2
reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(piperidin-4-ylmethyl)aniline | 1.27 g | N1CCC(CC1)CC=1C=C(N)C=CC1 | C12H18N2
